US05468751
Preparation of 4-[1'-(β-naphthyl)-ethylamino]-5-methylthio-6-ethylpyrimidine
4.99 g (0.014 mol) of 4-[1'-(β-naphthyl)-ethylamino]-5-bromo-6-ethylpyrimidine are dissolved in 18 ml of N-methylpyrrolidone, and the solution is heated at 60° C. with 3.2 g of sodium methanethiolate (CH3SNa) for 5 hours. The mixture is then extracted with water and ethyl acetate, the extract is washed and the solvent is removed using a rotary evaporator. Purification by chromatography on silica gel (eluant: 3 parts ethyl acetate and 7 parts hexane) yields, in addition to the starting product, 1.42 g of pure substance in the form of a colourless oil. Analysis: C19H21N3S (M=323.46).

reactant | 4-[1'-(β-naphthyl)-ethylamino]-5-bromo-6-ethylpyrimidine | 0.014 mol, 4.99 g | C1=C(C=CC2=CC=CC=C12)C(C)NC1=NC=NC(=C1Br)CC | C18H18BrN3
reactant | sodium methanethiolate | 3.2 g | C[S-].[Na+]
solvent | N-methylpyrrolidone | 18 ml | CN1C(CCC1)=O | C5H9NO
product | 4-[1'-(β-naphthyl)-ethylamino]-5-methylthio-6-ethylpyrimidine | C1=C(C=CC2=CC=CC=C12)C(C)NC1=NC=NC(=C1SC)CC | C19H21N3S
